US05545740
To a stirred solution of 3-quinuclidinone (50 g; 0.309 mol) in water (250 ml) was added potassium hydroxide (17.35 g; 0.309 mol). After 15 minutes, diethyl cyanomethyl phosphonate (109.6 g; 0.619 mol) was added with a further 125 ml water. A solution of potassium hydroxide (52.07 g; 0.928 mol) in water (250 ml) was added dropwise over 30 minutes. The reaction was left overnight, saturated with NaCl then extracted into ethyl acetate (6×200 ml). The organic extracts were combined, dried over anhydrous K2CO3 and concentrated in vacuo to give 3-cyanomethylidene quinuclidine (44 g; 96%, (96% pure-gc)) as a 2:1 mixture of Z:E isomers.

reactant | 3-quinuclidinone | 0.309 mol, 50 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | potassium hydroxide | 0.309 mol, 17.35 g | [OH-].[K+]
reactant | diethyl cyanomethyl phosphonate | 0.619 mol, 109.6 g | CCOP(=O)(CC#N)OCC | C6H12NO3P
reactant | potassium hydroxide | 0.928 mol, 52.07 g | [OH-].[K+]
reactant | NaCl | [Na+].[Cl-]
solvent | water | 250 ml | O | H2O
solvent | water | 250 ml | O | H2O
solvent | water | 125 ml | O | H2O
product | 3-cyanomethylidene quinuclidine | 44 g | C(#N)C=C1CN2CCC1CC2 | C9H12N2
